US05167695
3-Methyl-7-chloro-3H-imidazo[4,5-h]quinoline
24.9 g (0.12 mol) of 8-amino-3-chloro-7-methylaminoquinoline and 107 g (0.72 mol) of triethyl orthoformate are heated at 100° C. for 30 min. The mixture is then cooled to 0° C., and the precipitate (32 g) is filtered off with suction. The mother liquor is concentrated under reduced pressure, and the residue is recrystallized from ethyl acetate/petroleum ether. The two solids obtained in this way are identical. Yield: 48.5 g (82%); melting point 188° to 189° C.

reactant | 8-amino-3-chloro-7-methylaminoquinoline | 0.12 mol, 24.9 g | NC=1C(=CC=C2C=C(C=NC12)Cl)NC | C10H10ClN3
reactant | triethyl orthoformate | 0.72 mol, 107 g | C(OCC)(OCC)OCC | C7H16O3
product | 3-Methyl-7-chloro-3H-imidazo[4,5-h]quinoline | CN1C=NC2=C1C=CC=1C=C(C=NC21)Cl | C11H8ClN3
